US07666888B2
2-(4-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperazin-1-yl)pyrimidine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 1-(2-pyrimidyl)piperazine (9.9 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (4.4 mg). Calcd for C19H19N5O2: 349.1539, found 349.1538.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 1-(2-pyrimidyl)piperazine | 0.060 mmol, 9.9 mg | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
product | 2-(4-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperazin-1-yl)pyrimidine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCN(CC1)C1=NC=CC=N1 | C19H19N5O2
